US06492403B1
105 mg (0.424 mmol) of methyl 4-(aminothioxomethyl)-5-methylthiothiophene-2-carboxylate (Maybridge Chemical Co. LTD., Cornwall, U.K.) was reacted with 1-(3,4-dimethoxyphenyl)-2-bromoethan-1-one (0.467 mmol; 120 mg) in a manner similar to Example 22, step (a) to afford 148 mg (85% yield) of methyl 4-[4-(3,4-dimethoxyphenyl)(1,3-thiazol-2-yl)]-5-methylthiothiophene-2-carboxylate.

reactant | methyl 4-(aminothioxomethyl)-5-methylthiothiophene-2-carboxylate | 0.424 mmol, 105 mg | NC(C=1C=C(SC1C)C(=S)OC)=S | C8H9NOS3
reactant | 1-(3,4-dimethoxyphenyl)-2-bromoethan-1-one | 0.467 mmol, 120 mg | COC=1C=C(C=CC1OC)C(CBr)=O | C10H11BrO3
product | methyl 4-[4-(3,4-dimethoxyphenyl)(1,3-thiazol-2-yl)]-5-methylthiothiophene-2-carboxylate | 148 mg, 85% yield | COC=1C=C(C=CC1OC)C=1N=C(SC1)C=1C=C(SC1C)C(=S)OC | C18H17NO3S3
